US06875765B2
To a solution of acid 4-((S)-2-tert-butoxycarbonyl-1-cyano-ethylsulfamoyl)-3-(2-quinolin-5-yl-ethoxy)-benzoic acid (0.60 g, 1.10 mmol) in THF (20 mL) was added EDCI (0.33 g, 1.70 mmol), HOBt (0.23 g, 1.70 mmol), and N-methylmorpholine (1.70 mmol, 0.20 mL). The reaction was allowed to stirred at room temperature for 1 h then followed by addition of NH4OH (10 mL). The mixture was stirred for another 12 h. To reaction was added EtOAc (100 mL) and washed with the 5% citric acid and then saturated NaHCO3. The organic phase was dried (MgSO4), and then the solvent was removed under vacuum. The resulting crude product was purified using silica gel flash chromatography (70% EtOAc in hexanes). (S)-3-[4-Carbamoyl-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-3-cyano-propionic acid tert-butyl ester was obtained in 22% yield (0.130 g) as an off white foam. MS (APCI) m/z 525.2 (M+1).

reactant | 4-((S)-2-tert-butoxycarbonyl-1-cyano-ethylsulfamoyl)-3-(2-quinolin-5-yl-ethoxy)-benzoic acid | 1.10 mmol, 0.60 g | C(C)(C)(C)OC(=O)C[C@@H](C#N)NS(=O)(=O)C1=C(C=C(C(=O)O)C=C1)OCCC1=C2C=CC=NC2=CC=C1 | C26H27N3O7S
reactant | EDCI | 1.70 mmol, 0.33 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.70 mmol, 0.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 1.70 mmol, 0.20 mL | CN1CCOCC1 | C5H11NO
reactant | NH4OH | 10 mL | [NH4+].[OH-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-3-[4-Carbamoyl-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-3-cyano-propionic acid tert-butyl ester | 22% yield | C(C)(C)(C)OC(C[C@@H](C#N)NS(=O)(=O)C1=C(C=C(C=C1)C(N)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C26H28N4O6S
